US05294734
16.0 g (45.8 mmol) of 6-(N-acetyl-N-methylamino)-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester and 50.3 ml (183.3 mmol) of triisopropyl phosphite (90%) are heated to 80° and stirred under a pressure of approximately 130 mbar for 18 hours. The excess triisopropyl phosphite is distilled off and the residue is purified by chromatography on silica gel with ethyl acetate/isopropanol (7:2). 6-(N-acetyl-N-methylamino)-4-diisopropylphosphonomethyl-2-formylamino-hex-3-enoic acid ethyl ester is obtained in the form of a yellow oil.

reactant | 6-(N-acetyl-N-methylamino)-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester | 45.8 mmol, 16.0 g | C(C)OC(C(C=C(CCN(C)C(C)=O)CBr)NC=O)=O | C13H21BrN2O4
reactant | triisopropyl phosphite | 183.3 mmol, 50.3 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | 6-(N-acetyl-N-methylamino)-4-diisopropylphosphonomethyl-2-formylamino-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCN(C)C(C)=O)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C19H35N2O7P
